US20010041740A1
To a solution of 7.0 g (31 mmol) of 3-bromo-2,2,3,3-tetrafluoropropionic acid in 40 ml of ethanol was added 1.0 ml of concentrated sulfuric acid, and the mixture was heated under reflux for 8 hours and then distilled under ordinary pressure to give an ethanolic solution of ethyl 3-bromo-2,2,3,3-tetrafluoropropionate. Ammonia gas was blown into the solution, which was left at room temperature overnight and then concentrated under reduced pressure to give 5.6 g of 3-bromo-2,2,3,3-tetrafluoropropionamide as a white solid.

reactant | 3-bromo-2,2,3,3-tetrafluoropropionic acid | 31 mmol, 7.0 g | BrC(C(C(=O)O)(F)F)(F)F | C3HBrF4O2
reactant | sulfuric acid | 1.0 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 40 ml | C(C)O | C2H6O
product | ethyl 3-bromo-2,2,3,3-tetrafluoropropionate | BrC(C(C(=O)OCC)(F)F)(F)F | C5H5BrF4O2
